US08003647B2
4-Fluoro-2-hydroxy-benzoic acid ethyl ester
To a solution of 4-fluoro-2-hydroxybenzoic acid (3.0 g) in ethanol (40 mL) was added thionyl chloride (5.61 mL) at 0° C., and the mixture was heated under reflux for 24 hours. The reaction mixture was concentrated under reduced pressure. This residue was poured into water, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (3.5 g).

reactant | 4-fluoro-2-hydroxybenzoic acid | 3.0 g | FC1=CC(=C(C(=O)O)C=C1)O | C7H5FO3
reactant | thionyl chloride | 5.61 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 40 mL | C(C)O | C2H6O
product | 4-Fluoro-2-hydroxy-benzoic acid ethyl ester | 3.5 g | C(C)OC(C1=C(C=C(C=C1)F)O)=O | C9H9FO3
